US07829580B2
(f) (E)-4-(Acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(methoxycarbonylmethyl)-1H-1,2,3-triazol-5-yl]methylidene}piperidine hydrochloride
Following a procedure similar to that described in Example 150-(g), (E)-4-(acetylsulfanyl)-3-{[1-(methoxycarbonylmethyl)-1H-1,2,3-triazol-5-yl]methylidene}piperidine hydrogen trifluoroacetate (1.06 g) was subjected to the reaction with 2-bromo-2-(2-fluorophenyl)-1-cyclopropylethanone and triethylamine and the free base that was obtained by silica gel chromatography was similarly treated with hydrogen chloride to yield the title compound (650 mg, yield: 50%) as a pale yellow amorphous solid.

reactant | (E)-4-(acetylsulfanyl)-3-{[1-(methoxycarbonylmethyl)-1H-1,2,3-triazol-5-yl]methylidene}piperidine hydrogen trifluoroacetate | 1.06 g | FC(C(=O)O)(F)F.C(C)(=O)SC1/C(/CNCC1)=C/C1=CN=NN1CC(=O)OC
reactant | 2-bromo-2-(2-fluorophenyl)-1-cyclopropylethanone | BrC(C(=O)C1CC1)C1=C(C=CC=C1)F | C11H10BrFO
reactant | hydrogen chloride | Cl | ClH
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (E)-4-(Acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(methoxycarbonylmethyl)-1H-1,2,3-triazol-5-yl]methylidene}piperidine hydrochloride | 650 mg, yield: 50% | Cl.C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C1=CN=NN1CC(=O)OC | InChI=1S/C24H27FN4O4S.ClH/c1-15(30)34-21-9-10-28(13-17(21)11-18-12-26-27-29(18)14-22(31)33-2)23(24(32)16-7-8-16)19-5-3-4-6-20(19)25;/h3-6,11-12,16,21,23H,7-10,13-14H2,1-2H3;1H/b17-11+;
